Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___ - coronary angiogram 

 
History of Present Illness:
This is a ___ female h/o ILD and obesity who presents with 
chest
pain. Patient was bending over to feed the cats when she felt
substernal chest pain without associated symptoms. The pain did
not go away on its own so the patient presented to the ___. Given her symptoms she received 1 SL nitro, which dropped 
her
BPs from 160s to ___. She was given IVF with improvement in BPs.
She was also given a full dose aspirin and started on heparin 
gtt
(with bolus). At OSH her troponin was 0.3. She was transferred 
to
___ given that she gets her pulmonary care here. At the time 
of
her arrival to the ___ ED, patient was chest pain-free. In
total, her chest pain lasted about 3 hours She denied any 
fevers,
chills, cough, abd pain, n/v, dyspnea, no history of heart
disease.

Of note, patient has long-standing history of pulmonary 
fibrosis,
with steady decline. She is followed by Dr. ___ and is
trying to lose weight so she can be evaluated for lung 
transplant
by ___. In her attempts to lose weight, she has been exercising
frequently and trying to be more active than prior.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension   
2. CARDIAC HISTORY  
- Coronaries? CAD? not evaluated 
- Pump?   EF >55%
- Rhythm? AFib? Pacemaker?  
3. OTHER PAST MEDICAL HISTORY  
-  Interstitial lung disease with aspects most suggestive of
fibrosing NSIP on CT scan.
-  History of breast cancer, status post resection ___.
-  Acid reflux.
-  Uterine nodule.
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death. 
Brother with pulmonary fibrosis. Father with cerebral hemorrhage
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=======================  
VS: T97.8 PO BP 161/87 HR78 RR20 94% RA 
GENERAL: Well developed, well nourished woman in NAD. Oriented
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 7 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. End-inspiratory wheeze 
in
lower lung fields but otherwise clear to auscultation
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well-perfused. No clubbing, cyanosis, trace
pitting edema bilaterally
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAMINATION:  
=======================  
VS: Temp: 99.0 PO BP: 139/82 L Lying HR: 69 RR: 17
O2 sat: 96% O2 delivery: 1L 
GENERAL: Well developed, well nourished woman in NAD. Oriented
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma. 
NECK: Supple.
CARDIAC: RRR, no m/r/g;  JVP 6 cm. 
LUNGS: dry crackles up to mid lungfields b/l; no wheezes
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well-perfused. No clubbing, cyanosis, no 
edema
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
LABS:
======

___ 04:48PM BLOOD WBC-7.1 RBC-4.22 Hgb-13.0 Hct-39.9 MCV-95 
MCH-30.8 MCHC-32.6 RDW-12.6 RDWSD-43.4 Plt ___
___ 04:48PM BLOOD ___ PTT-150* ___
___ 04:48PM BLOOD Glucose-97 UreaN-18 Creat-0.6 Na-142 
K-4.1 Cl-107 HCO3-22 AnGap-13
___ 04:48PM BLOOD CK-MB-19* MB Indx-11.2*
___ 04:48PM BLOOD cTropnT-0.32*
___ 11:21PM BLOOD CK-MB-29* cTropnT-0.49*
___ 06:58AM BLOOD CK-MB-25* cTropnT-0.50*
___ 06:58AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.0 Cholest-259*
___ 06:58AM BLOOD Triglyc-117 HDL-47 CHOL/HD-5.5 
LDLcalc-189*
___ 06:58AM BLOOD %HbA1c-5.2 eAG-103

IMAGING:
===========
CARDIAC CATH:
Findings
• No angiographically apparent coronary artery disease.
Recommendations
• Maximize medical therapy
• Ongoing evaluation and management per Cardiology service
 
Brief Hospital Course:
=====================================
BRIEF SUMMARY 
=====================================

___ is a ___ year old women with a history of 
pulmonary fibrosis on Esbriet and prednisone, hypertension, 
hyperlipidemia, obesity (BMI 35), and acid reflux who presented 
with chest pain. 

On evaluation her troponin was elevated without ST elevations on 
EKG. She underwent cath for presumed type I MI but there was no 
angiographically apparent coronary artery disease. 

We recommended an outpatient cardiac MRI for further evaluation 
to exclude alternative diagnoses such as myocarditis. 

The only medication change we made was adding atorvastatin 20mg 
daily for primary prevention after her lipid panel returned with 
an LDL of 189. 

=====================================
TRANSITIONAL ISSUES 
=====================================
[]Outpatient cardiac MRI 
[]Started atorvastatin 20mg daily for primary prevention given 
an LDL of 189.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Nexium 40 mg Other DAILY 
3. pirfenidone 801 mg oral TID 
4. Vitamin D ___ UNIT PO DAILY 
5. Ranitidine 150 mg PO QHS:PRN heartburn 
6. lactobacillus combination ___ billion cell oral DAILY 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Escitalopram Oxalate 10 mg PO DAILY  
3.  Esomeprazole 40 mg Other DAILY  
4.  lactobacillus combination ___ billion cell oral DAILY  
5.  pirfenidone 801 mg oral TID  
6.  Ranitidine 150 mg PO QHS:PRN heartburn  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
NSTEMI with normal coronary arteries

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
=======================================
WHY DID YOU COME TO THE HOSPITAL? 
=======================================
-You had chest pain 

=======================================
WHAT HAPPENED AT THE HOSPITAL? 
=======================================
-Blood tests indicated that there was damage to the heart muscle 

-We performed an angiogram that showed no blockages in the 
arteries supplying blood and oxygen to the heart muscle 
-We discharged you to home without changing any of your 
medications, but recommended an MRI of the heart for further 
evaluation. 

==================================================
WHAT NEEDS TO HAPPEN WHEN YOU LEAVE THE HOSPITAL? 
==================================================

-Obtain an MRI of the heart 
-Continue taking all of your medications and follow up with your 
doctors as planned. 
 
Followup Instructions:
___